* source STATIC OPERATING POINT ANALYSIS CIRCUIT
V_V1         N00156 0 10Vdc
R_R1         N00156 N00163  1k TC=0,0 
R_R2         0 N00163  1k TC=0,0 
R_R3         N00167 N00163  1k TC=0,0 
C_C1         0 N00167  1p  TC=0,0 
