* source TRANSIENT ANALYSIS AND FOURIER ANALYSIS
V_V1         PWL-RE-FOR-1 0   PWL   
+ REPEAT FOREVER 
+ (1m,0) (2m,5) 
+ (3m,-5) (4m,0)  
+ ENDREPEAT
V_V2         PWL-RE-FOR-2 0   PWL  VALUE_SCALE_FACTOR=2 
+ REPEAT FOREVER 
+ (1m,0) (2m,5) 
+ (3m,-5) (4m,0)  
+ ENDREPEAT
V_V3         PWL-RE-N1 0   PWL    
+ REPEAT FOR 5
+ (1m,0) 
+ (2m,5) (3m,-5) 
+ (4m,0)  
+ ENDREPEAT
V_V4         PWL-RE-N2 0   PWL TIME_SCALE_FACTOR=2   
+ REPEAT FOR 5
+ (1m,0) 
+ (2m,5) (3m,-5) 
+ (4m,0)  
+ ENDREPEAT
