* source TRANSIENT ANALYSIS AND FOURIER ANALYSIS
V_V1         N00106 0 1Vdc
R_R1         N00106 N00113  100k TC=0,0 
C_C1         0 N00113  10p IC=0 TC=0,0 
