* source TRANSIENT ANALYSIS AND FOURIER ANALYSIS
V_V1         SIN1 0  AC 0
+SIN 0 2 1k 0 0 0
V_V2         SIN2 0  AC 0
+SIN 2 2 500 0 200 0
V_V3         SIN3 0  AC 0
+SIN 0 1 1k 1m -200 90
