* source TRANSMISSION SCAN ANALYSIS
V_VBB1         N00189 0 3Vdc
V_VCC2         N00267 0 12Vdc
I_IBB2         0 N00237 DC 10uAdc  
V_VCC1         N00218 0 12Vdc
Q_Q1         N00218 N00189 0 Q2N3904
Q_Q2         N00267 N00237 0 Q2N3904
